US08133882B2
3 ml of ethyl acetate and 0.35 ml of a 1 M hydrogen chloride ethyl acetate solution were added to 0.13 g of ethyl({[7-(cyclohexylamino)-1-ethyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}amino)acetate obtained by the same method of Example 9. After evaporation of the solvent under a reduced pressure and subsequent addition of ether, the insoluble materials were collected by filtration to obtain 97 mg of ethyl({[7-(cyclohexylamino)-1-ethyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}amino)acetate hydrochloride.

reactant | hydrogen chloride ethyl acetate | 1 M | C(C)OC(C)=O.Cl
reactant | ethyl({[7-(cyclohexylamino)-1-ethyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}amino)acetate | 0.13 g | C(C)OC(CNCC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)CC)=O | C22H30FN3O3
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | ethyl({[7-(cyclohexylamino)-1-ethyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}amino)acetate hydrochloride | 97 mg | Cl.C(C)OC(CNCC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)CC)=O | InChI=1S/C22H30FN3O3.ClH/c1-3-26-14-15(12-24-13-21(27)29-4-2)22(28)17-10-18(23)19(11-20(17)26)25-16-8-6-5-7-9-16;/h10-11,14,16,24-25H,3-9,12-13H2,1-2H3;1H
